data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_40524_2,[C:1]([C:2]([C:4]([C:5](=[C:6]([H:17])[H:18])[H:13])([O:8][H:9])[H:10])([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])=[O:7]>>[C:1]([C:2]([C:4]([C:5](=[C:6]([H:17])[H:18])[H:13])=[O:8])([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([O:7][H:9])[H:10],53.97001999999532
MR_405766_0,[C:1](/[C:4]([N:5]([H:8])[H:9])=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])([O:7][C:2]([H:13])([H:14])[H:15])([H:10])[H:11]>>[C:1](=[C:4]([N:5]([H:8])[H:9])[C@:6]([C:3]([H:16])([H:17])[H:18])([O:7][C:2]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11],66.51123500000608
MR_592847_0,[C:1]([C:2]([N:4]([H:12])[H:13])=[O:7])([O:5][N:3]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]1([O:6][H:8])([H:9])[C:2]([N:4]([H:12])[H:13])([O:5][N:3]([H:10])[H:11])[O:7]1,65.58880999998081
MR_92448_1,[C:1]([C:3]([N:2]([O:6][H:9])[H:10])=[O:8])(/[N:7]=[C:5](\[N:4]([H:11])[H:12])[H:15])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:3](=[O:8])[N:7]1[C@@:5]([N:2]([O:6][H:9])[H:10])([N:4]([H:11])[H:12])[H:15],67.13622499999758
MR_59561_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])(/[C:4]([N:5]([H:10])[H:11])=[C:6](/[O:7][H:8])[H:12])[H:9]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])=[C:4]([N:5]([H:10])[H:11])[C:6]([O:7][H:8])([H:9])[H:12],71.20430750003507
MR_422468_0,[C:1]([C:4]([O:8][H:10])=[O:9])(/[C:6]([C:3]([H:18])([H:19])[H:20])=[C:5](\[C:2]([H:15])([H:16])[H:17])[N:7]([H:11])[H:12])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:4](=[O:9])[C:6]1([C:3]([H:18])([H:19])[H:20])[C:5]([C:2]([H:15])([H:16])[H:17])([N:7]([H:11])[H:12])[O:8][H:10],70.28188249997413
MR_308075_1,[N:1]([C:2]([N:3]([H:10])[H:11])=[O:7])([C:4]([N:6][O:5][H:8])[H:12])[H:9]>>[N:1](=[C:4](\[N:6]([C:2]([N:3]([H:10])[H:11])=[O:7])[O:5][H:8])[H:12])\[H:9],54.05912500002003
MR_307130_0,[C:1]1([H:9])([H:10])[N:2]([N:3]([H:7])[H:8])[N:6]=[C:4]([H:11])[O:5]1>>[C:1]1([H:9])([H:10])[C@:4](/[N:6]=[N:2]/[N:3]([H:7])[H:8])([H:11])[O:5]1,59.02453250000349
MR_316678_1,[C:1](/[C:4]([N:5]([H:10])[H:11])=[C:7](\[N:6]([H:12])[H:13])[H:16])([O:8][C:3]([C:2]([H:17])([H:18])[H:19])=[O:9])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:4]([N:5]([H:10])[H:11])([C:7]([C:3]([C:2]([H:17])([H:18])[H:19])=[O:9])([N:6]([H:12])[H:13])[H:16])[O:8]1,50.80051749997196
MR_364664_1,[C:1](/[C:3]([N:5]([H:11])[H:12])=[N:7]\[O:6][C:2]([N:4]([H:9])[H:10])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:3]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[N:7]1[C:2](=[O:8])[O:6]1)([H:13])([H:14])[H:15],67.95134750004408
MR_342390_1,[C:1]1([O:8][H:11])([H:13])[C:4]([H:17])([H:18])[C:2]([C:6]([O:7][H:10])=[O:9])([H:14])[C:3]([H:15])([H:16])[N:5]1[H:12]>>[C:1]([C:4]([C:2]([C:3]([N:5]([H:11])[H:12])([H:15])[H:16])([C:6]([O:7][H:10])=[O:9])[H:14])([H:17])[H:18])(=[O:8])[H:13],36.69619999998403
MR_453362_1,[C:1]([N:4]([H:12])[H:13])([N:5]([H:10])[H:11])(/[N:7]=[C:3](\[C:2]([H:14])([H:15])[H:16])[O:6][H:8])[H:9]>>[C:1](\[N:5]([H:10])[H:11])(=[N:7]\[C@@:3]([C:2]([H:14])([H:15])[H:16])([N:4]([H:12])[H:13])[O:6][H:8])[H:9],43.07912999999118
MR_560342_0,[C:1]([C:3]1([O:9][H:11])[C:2](/[C:6](=[N:5]/[H:12])[H:13])([O:8][H:10])[C:4]1=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:3]([C:4](/[C:2](=[C:6](\[N:5]([H:11])[H:12])[H:13])[O:8][H:10])=[C:7]([H:17])[H:18])=[O:9])([H:14])([H:15])[H:16],4.001567500027079
MR_99158_1,[C:1](/[C:2](=[N:5]/[H:9])[H:11])(/[C:3](=[N:6]/[H:10])[H:12])([O:4][H:7])[H:8]>>[C:1](=[C:2](\[N:5](/[C:3](=[N:6]/[H:10])[H:12])[H:9])[H:11])(\[O:4][H:7])[H:8],54.362207500039545
MR_102501_1,[C:1](/[C:4]([C:3]([H:13])([H:14])[H:15])=[N:6]\[C:2]([H:10])([H:11])[H:12])([O:5][H:7])([H:8])[H:9]>>[C:1]1([O:5][H:7])([H:8])[C:4]([C:3]([H:13])([H:14])[H:15])([H:9])[N:6]1[C:2]([H:10])([H:11])[H:12],66.74717500001677
MR_558811_1,[C:1]([C:4]1([C:5]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])/[C:3](=[N:7]\[H:9])[N:8]1[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:3](/[C:4]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])=[N:8]\[H:10])=[N:7]/[H:9])([H:11])([H:12])[H:13],61.83385000000882
MR_524241_2,[C:1](\[N:2]([H:10])[H:11])(=[C:4](/[C:3]([O:6][H:8])([N:7]=[C:5]([H:14])[H:15])[H:12])[H:13])[H:9]>>[C:1]([N:2]([H:10])[H:11])(/[C:4](=[C:3](\[N:7]=[C:5]([H:14])[H:15])[H:12])[H:13])([O:6][H:8])[H:9],54.360952500007045
MR_700222_1,[N:1]1([H:11])[C:3]2([N:5]([H:12])[H:13])[C:2]([O:8][H:10])=[N:9][C:4]12[C:6](=[C:7]([H:15])[H:16])[H:14]>>[n:1]1([H:11])[c:3]([N:5]([H:12])[H:13])[c:2]([O:8][H:10])[n:9][c:4]1[C:6](=[C:7]([H:15])[H:16])[H:14],22.92132000002041
MR_310184_1,[N:1]1([H:9])[C:3]2([C:6](=[C:7]([H:14])[H:15])[H:13])[C:5]([H:12])=[C:2]([N:4]([H:10])[H:11])[N:8]12>>[n:1]1([H:9])[c:3]([C:6](=[C:7]([H:14])[H:15])[H:13])[c:5]([H:12])[c:2]([N:4]([H:10])[H:11])[n:8]1,14.74625000000799
MR_391609_1,[C:1](/[C:2]([O:7][H:9])=[N:8]\[C:6](=[C:3]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:2]1([O:7][H:9])[C:3]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[C:6]([H:14])=[N:8]1)([H:15])([H:16])[H:17],46.950805000025184
